US05965741
2-Hydroxymethyl-4-methylphenol (3.1 g, 22.4 mMol) was dissolved in CHCl3 (95 ml). The solution was treated with manganese dioxide (8.7 g, 100 mmol) and the reaction stirred at ambient temperature overnight under an argon atmosphere. The reaction was then filtered through Celite and the solvent evaporated. The residue was subjected to chromatography (eluant: ethyl ether/hexane) to give 2-hydroxy-5-methylbenzaldehyde as a pale green solid (0.63 g, 20.7%).

reactant | 2-Hydroxymethyl-4-methylphenol | 22.4 mMol, 3.1 g | OCC1=C(C=CC(=C1)C)O | C8H10O2
solvent | CHCl3 | 95 ml | C(Cl)(Cl)Cl | CHCl3
catalyst | manganese dioxide | 100 mmol, 8.7 g | [O-2].[O-2].[Mn+4]
product | 2-hydroxy-5-methylbenzaldehyde | 0.63 g, 20.7% | OC1=C(C=O)C=C(C=C1)C | C8H8O2
